US06376490B1
6,7-Dichloro-2,3-dimethoxy-5-[3-(3-chlorophenyl)-5-methyl-4H-1,2,4-triazol-4-yl]quinoxaline
A mixture of 6,7-dichloro-2,3-dimethoxy-5-thioacetamidoquinoxaline (250 mg, 0.753 mmol), 3-chlorobenzhydrazide (167 mg, 0.978 mmol), mercury(II) oxide (163 mg, 0.753 mmol), powdered 4 Å molecular sieves (175 mg) and n-butanol (7 mL) was heated under reflux for 18 hours. After being cooled, the mixture was filtered through ARBOCEL (trade mark) filter aid and the residue washed with dichloromethane. The filtrate was concentrated under reduced pressure to afford a green solid which was dissolved in dichloromethane, washed twice with 2M aqueous hydrochloric acid solution followed by brine, then dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, eluting with dichloromethane:methanol (98:2, by volume) to give the title compound (120 mg, 35%) as a pale yellow solid.

reactant | 6,7-dichloro-2,3-dimethoxy-5-thioacetamidoquinoxaline | 0.753 mmol, 250 mg | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)NC(C)=S | C12H11Cl2N3O2S
reactant | 3-chlorobenzhydrazide | 0.978 mmol, 167 mg | ClC=1C=C(C(=O)NN)C=CC1 | C7H7ClN2O
reactant | n-butanol | 7 mL | C(CCC)O | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | mercury(II) oxide | 0.753 mmol, 163 mg | [Hg]=O
product | 6,7-Dichloro-2,3-dimethoxy-5-[3-(3-chlorophenyl)-5-methyl-4H-1,2,4-triazol-4-yl]quinoxaline | 120 mg, 35% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N1C(=NN=C1C)C1=CC(=CC=C1)Cl | C19H14Cl3N5O2
